US05650533
A suspension of methyl 3-amino-2-methyl-6-thiocyanatobenzoate (22.2 g) in ethanol was added to a solution of sodium sulphide (26.6 g) in water. The resultant mixture was stirred at room temperature for 1 hour and then cooled to 5° C. 2-Iodopropane (19.36 g) was added and the mixture was allowed to warm to room temperature and stirred for 2 hours. It was evaporated to dryness and the residue was suspended in aqueous sodium chloride solution and extracted with dichloromethane. The organic layer was dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give methyl 3-amino-2-methyl-6-(1-methylethylsulphenyl)benzoate (18 g) as a yellow oil NMR(CDCl3) 1.2(d,6H) 2.0(s,3H) 3.0(m, 1H) 3.8(bs,2H) 3.9(s, 1H) 6.5(d, 1H) 7.0(d, 1H).

reactant | methyl 3-amino-2-methyl-6-thiocyanatobenzoate | 22.2 g | NC=1C(=C(C(=O)OC)C(=CC1)SC#N)C | C10H10N2O2S
reactant | sodium sulphide | 26.6 g | [S-2].[Na+].[Na+]
reactant | 2-Iodopropane | 19.36 g | IC(C)C | C3H7I
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | methyl 3-amino-2-methyl-6-(1-methylethylsulphenyl)benzoate | 18 g | NC=1C(=C(C(=O)OC)C(=CC1)SC(C)C)C | C12H17NO2S
